### PR TITLE
feat: `Option.pfilter` and other lemmas

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds `Option.pfilter`, a variant of `Option.filter` and several lemmas for it and other `Option` functions. These lemmas are split off from #7400.

### CODE REVIEW

File: src/Init/PropLemmas.lean [hunk 1]
```diff
@@ -310,10 +310,12 @@ theorem Exists.nonempty : (∃ x, p x) → Nonempty α | ⟨x, _⟩ => ⟨x⟩
 theorem not_forall_of_exists_not {p : α → Prop} : (∃ x, ¬p x) → ¬∀ x, p x
   | ⟨x, hn⟩, h => hn (h x)
 
-@[simp] theorem forall_eq {p : α → Prop} {a' : α} : (∀ a, a = a' → p a) ↔ p a' :=
+@[simp] theorem forall_eq {a' : α} {p : (a : α) → a = a' → Prop} :
```
Comment (TwoFX) [inline src/Init/PropLemmas.lean:313]: This is a very invasive change to a `simp` lemma that is used extensively in mathlib. This will definitely need a rebase to `nightly-with-mathlib` to assess the impact.

File: src/Init/Data/Option/Lemmas.lean [hunk 2]
```diff
@@ -335,6 +410,18 @@ theorem guard_comp {p : α → Prop} [DecidablePred p] {f : β → α} :
   ext1 b
   simp [guard]
 
+theorem bind_guard (x : Option α) (p : α → Prop) [DecidablePred p] :
```
Comment (TwoFX) [inline src/Init/Data/Option/Lemmas.lean:413]: Did you specifically decide not to make the `DecidablePred` argument implicit here?

File: src/Init/Data/Option/Lemmas.lean [hunk 3]
```diff
@@ -272,6 +308,45 @@ theorem mem_filter_iff {p : α → Bool} {a : α} {o : Option α} :
   simp only [guard]
   split <;> simp_all
 
+theorem all_eq_true (p : α → Bool) (x : Option α) :
+    x.all p = true ↔ ∀ y, x = some y → p y := by
+  cases x <;> simp
+
+theorem all_eq_true' (p : α → Bool) (x : Option α) :
```
Comment (TwoFX) [inline src/Init/Data/Option/Lemmas.lean:315]: How about `all_eq_true_iff_get` or `all_eq_true_iff_forall_get`?

File: src/Init/Data/Option/Lemmas.lean [hunk 4]
```diff
@@ -677,6 +770,29 @@ theorem pmap_map (o : Option α) (f : α → β) {p : β → Prop} (g : ∀ b, p
       pmap (fun a h => g (f a) h) o (fun a m => H (f a) (mem_map_of_mem f m)) := by
   cases o <;> simp
 
+theorem pmap_congr.translate {α : Type u}
```
Comment (TwoFX) [inline src/Init/Data/Option/Lemmas.lean:773]: I think I would prefer something like `pmap_pred_congr` here.

File: src/Init/Data/Option/Lemmas.lean [hunk 5]
```diff
@@ -677,6 +770,29 @@ theorem pmap_map (o : Option α) (f : α → β) {p : β → Prop} (g : ∀ b, p
...
+@[congr]
+theorem pmap_congr {α : Type u} {β : Type v}
+    {p p' : α → Prop} (hp : ∀ x, p x ↔ p' x)
+    {f : (x : α) → p x → β} {f' : (x : α) → p' x → β}
+    (hf : ∀ x h, f x ((hp x).mpr h) = f' x h)
+    {o o' : Option α} (ho : o = o')
+    {h : ∀ x, x ∈ o → p x} :
+    Option.pmap f o h = Option.pmap f' o' (Option.pmap_congr.translate hp ho h) := by
+  cases ho
+  unfold Option.pmap
```
Comment (TwoFX) [inline src/Init/Data/Option/Lemmas.lean:790]: `unfold` is almost always a code smell because it suggests that basic API lemmas are missing, but in this case it turns out that it is not needed at all.
```suggestion
```

File: src/Init/Data/Option/Instances.lean [hunk 6]
```diff
@@ -144,6 +144,13 @@ none
   | none => b
   | some a => f a rfl
 
+/-- Partial filter. If `o : Option α`, `p : (a : α) → a ∈ x → Bool`, then `o.pfilter p` is
```
Comment (TwoFX) [inline src/Init/Data/Option/Instances.lean:147]:
```suggestion
/-- Partial filter. If `o : Option α`, `p : (a : α) → o = some a → Bool`, then `o.pfilter p` is
```

File: src/Init/Data/Option/Instances.lean [hunk 7]
```diff
@@ -144,6 +144,13 @@ none
...
+the same as `o.filter p` but `p` is passed the proof that `a ∈ o`. -/
```
Comment (TwoFX) [inline src/Init/Data/Option/Instances.lean:148]:
```suggestion
the same as `o.filter p` but `p` is passed the proof that `o = some a`. -/
```

File: src/Init/Data/Option/Lemmas.lean (hunk 2 above)
Comment (Rob23oba) [reply src/Init/Data/Option/Lemmas.lean:413]: I thought that you might want to rewrite the other direction but `filter_eq_bind` exists, so yeah I'll make that implicit.

File: src/Init/PropLemmas.lean (hunk 1 above)
Comment (Rob23oba) [reply src/Init/PropLemmas.lean]: This did cause breakages because sometimes it was referred to directly (as `@forall_eq ...`), so I'm going to keep it as-is for now (although the more general version might be worth considering another time).

**Review by TwoFX — APPROVED** [review]
Thanks!
